US09084794B2
b) 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetic acid
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid (0.408 mmol) in 1,4-dioxane (2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.449 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.020 mmol) and 2M aq potassium carbonate (1.224 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The reaction mixture was diluted with methanol (10 mL), treated with Silicycle Si-thiol (20 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by reverse phase HPLC (10-40% acetonitrile/water with 0.1% NH4OH) followed by lyophilization from water afforded the title compound as a white solid (134 mg, 63%). MS(ES)+ m/e 490.3 [M+H]+.

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid | 0.408 mmol | BrC1=CC(=C(C=C1)C(C(=O)O)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H22BrFN2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.449 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 1.224 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.020 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetic acid | 134 mg, 63% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)O)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C28H28FN3O4
